US05055464
In 300 ml of methanol is dissolved 8 g of ethyl trans-3-amino-4-oxo-2-(2-thienyl)-2,3,4,5-tetrahydro-1,5 -benzothiazepine-5-acetate, and ammonia gas is under ice-cooling blown into the solution until being saturated with ammonia gas. The reaction temperature is slowly elevated to room temperature, and the mixture is left standing for one day. Thereafter, the reaction mixture is concentrated under reduced pressure. Isopropyl alcohol is added to the obtained residue to crystallize. The crystals are collected by filtration to give 7 g of trans-3 amino-4-oxo-2-(2-thienyl)-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide, m.p. 207°-210° C. (decomposition).

reactant | ethyl trans-3-amino-4-oxo-2-(2-thienyl)-2,3,4,5-tetrahydro-1,5 -benzothiazepine-5-acetate | 8 g | N[C@H]1[C@@H](SC2=C(N(C1=O)CC(=O)OCC)C=CC=C2)C=2SC=CC2 | C17H18N2O3S2
reactant | ammonia | N | H3N
solvent | methanol | 300 ml | CO | CH4O
product | trans-3 amino-4-oxo-2-(2-thienyl)-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide | 7 g | N[C@H]1[C@@H](SC2=C(N(C1=O)CC(=O)N)C=CC=C2)C=2SC=CC2 | C15H15N3O2S2
